US04077982
Using the procedure of Example 51, cyclohexanone and 2-(2-fluorobenzyloxy)-2-methyl-1,3-propanediol were reacted, using benzene as solvent, to give 3-(2-fluorobenzyloxy)-3-methyl-1,5-dioxaspiro[5.5]undecane, b.p. 170°-174°/0.03 mm, nD25 1.5081. The ir and nmr spectra were consistent with the assigned structure.

reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | 2-(2-fluorobenzyloxy)-2-methyl-1,3-propanediol | FC1=C(COC(CO)(CO)C)C=CC=C1 | C11H15FO3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-(2-fluorobenzyloxy)-3-methyl-1,5-dioxaspiro[5.5]undecane | FC1=C(COC2(COC3(OC2)CCCCC3)C)C=CC=C1 | C17H23FO3
